US05563163
A mixture of 1.0 g (0.005 mol) of 4-methylsaccharin, 0.33 g (0.001 mol) of TBAB and 1.2 g (0.0075 mol) of chloromethyl phenyl sulfide in 25 ml of toluene was heated under reflux for about sixteen hours and then cooled, diluted with ethyl acetate and the solution washed with aqueous bicarbonate and water. The organic layer was dried and taken to dryness to give 0.74 g of 2-phenylthiomethyl-4-methylsaccharin.

reactant | 4-methylsaccharin | 0.005 mol, 1.0 g | CC1=C2C(NS(=O)(=O)C2=CC=C1)=O | C8H7NO3S
reactant | chloromethyl phenyl sulfide | 0.0075 mol, 1.2 g | C1(=CC=CC=C1)SCCl | C7H7ClS
catalyst | TBAB | 0.001 mol, 0.33 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-phenylthiomethyl-4-methylsaccharin | 0.74 g | C1(=CC=CC=C1)SCN1S(=O)(=O)C2=CC=CC(=C2C1=O)C | C15H13NO3S2
